US05620974
11-Cyclopropyl-2,3-dichloro-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture of 11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.5 g) and N-chlorosuccinimide (0.5 g) in carbon tetrachloride (50 mL) was heated under reflux for 6 hours. An additional 0.25 g of N-chlorosuccinimide was added and heating under reflux was continued for 4 hrs more. The mixture was filtered and the solvent was evaporated. The residue was fractionated over silica gel with ethyl acetate/hexane to give the title compound which crystallized from ethyl acetate/ethanol, m.p.>290° C.

reactant | 11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.5 g | C1(CC1)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC=N2)C | C15H14N4O
reactant | N-chlorosuccinimide | 0.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.25 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 11-Cyclopropyl-2,3-dichloro-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C1(CC1)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=C(C(=N2)Cl)Cl)C | C15H12Cl2N4O
